US09328099B2
tert-Butyl 4-[cyano(cyclopropyl)methylidene]piperidine-1-carboxylate
tert-Butyl 4-oxopiperidine-1-carboxylate (2.0 g, 10 mmol) and cyclopropylacetonitrile (0.97 g, 12 mmol) were dissolved in THF (20 mL), heated to reflux, and allowed to stir for 3 hours. The mixture was then cooled to ambient temperature and concentrated in vacuo. The residue was purified by MPLC on silica gel to afford the title compound as a white solid.

reactant | tert-Butyl 4-oxopiperidine-1-carboxylate | 10 mmol, 2.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | cyclopropylacetonitrile | 12 mmol, 0.97 g | C1(CC1)CC#N | C5H7N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-[cyano(cyclopropyl)methylidene]piperidine-1-carboxylate | C(#N)C(=C1CCN(CC1)C(=O)OC(C)(C)C)C1CC1 | C15H22N2O2
